US04159984
To a solution of 5 g of benzyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 100 ml of tetrahydrofuran are dropwise added 1.82 ml of pyridine and a solution of 2.86 g of benzoyl chloride in 20 ml of tetrahydrofuran at 0° C. under nitrogen atmosphere. After 20 minutes, the reaction mixture is warmed up to room temperature. After additional 2 hours, the mixture is diluted with ice water and extracted with ethyl acetate. The extract is washed with an aqueous sodium sulfate and condensed under reduced pressure to yield 7.02 g of benzyl α-(3ξ-carbomethoxy-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate as crude product.

reactant | benzyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 5 g | C(=O)(OC)C1NC2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O | C18H20N2O6
reactant | pyridine | 1.82 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 2.86 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzyl α-(3ξ-carbomethoxy-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 7.02 g | C(=O)(OC)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(C1=CC=CC=C1)=O | C25H24N2O7
